US04537924
1,3-Bis[N-n-octyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate
Under agitation, 339.6 g (1.26 moles) of 99.4% strength 4-n-octylamino-2,2,6,6-tetramethylpiperidine, 7.2 g (0.063 mole) of quadratic acid, and 150 cc of ethylhexanol was heated to boiling with reflux for 2.5 hours in a 1-liter stirred flask with water trap attached thereto; the solid matter was dissolved even before reaching reflux above 150° C. The sump temperature was 220° C. The amount of water removed from the cycle was 2.2 cc. Crystals precipitated from the reaction solution. After washing with petroleum ether and drying, 25.8 g was obtained. Yield: 84.4% of theory, mp 171°-175° C. (from cyclohexane). Extinction (g/l.cm) at 278 nm: 21; at 335 nm: 77.

reactant | 4-n-octylamino-2,2,6,6-tetramethylpiperidine | C(CCCCCCC)NC1CC(NC(C1)(C)C)(C)C | C17H36N2
reactant | quadratic acid | 0.063 mole, 7.2 g | C1(=C(C(=O)C1=O)O)O | C4H2O4
reactant | ethylhexanol | 150 cc | C(C)C(CCCCC)O | C8H18O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1,3-Bis[N-n-octyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate | Yield: 84.4% | C(CCCCCCC)N(C1CC(NC(C1)(C)C)(C)C)[C+]1[C+](C(=C1[O-])N(CCCCCCCC)C1CC(NC(C1)(C)C)(C)C)[O-] | InChI=1S/C38H71N4O2/c1-11-13-15-17-19-21-23-41(29-25-35(3,4)39-36(5,6)26-29)31-33(43)32(34(31)44)42(24-22-20-18-16-14-12-2)30-27-37(7,8)40-38(9,10)28-30/h29-30,39-40,43H,11-28H2,1-10H3/q+1/p-1
